US09029371B2
To a solution of 1-(4-(benzyloxy)-phenyl)-ethanone (49.12 g; 217.1 mmol) in CH2Cl2 (750 mL) was added drop wise DIPEA (45.37 mL; 260.5 mmol) and TMSOTf (45.18 mL; 249.6 mmol), both at 0° C. The resulting solution was maintained at 0° C. for 1 h, and then NBS (42.50 g; 238.8 mmol) was added in four portions. The resulting mixture was allowed to warm to RT and stirred 1 hour. Subsequently, the mixture was concentrated in vacuo and the residue was treated with EtOAc and washed twice with water, and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chormatography (SiO2, Et2O) and crystallization from iPr2O to afford 1-(4-benzyloxy-phenyl)-2-bromo-ethanone.

reactant | 1-(4-(benzyloxy)-phenyl)-ethanone | 217.1 mmol, 49.12 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | DIPEA | 260.5 mmol, 45.37 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TMSOTf | 249.6 mmol, 45.18 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | NBS | 238.8 mmol, 42.50 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 750 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-benzyloxy-phenyl)-2-bromo-ethanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
